US05258380
To a stirred solution of 109 parts of 1,2-dibromoethane and 21.2 parts of sodium carbonate in 5 parts of water and 18 parts of N,N-dimethylformamide were added dropwise a solution of 22.5 parts of 1-ethyl-1,4-dihydro-5H-tetrazol-5-one in 5 parts of water and 27 parts of N,N-dimethylformamide at about 40° C. Upon completion, stirring was continued overnight at 40° C. The organic phase was separated, dried and distilled, yielding 9.8 parts (22%) of 1-(2-bromoethyl)-4-ethyl-1,4-dihydro-5H-tetrazol-5-one; bp. 110° C. at 0.1 mm pressure (interm. 47).

reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-ethyl-1,4-dihydro-5H-tetrazol-5-one | C(C)N1N=NNC1=O | C3H6N4O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2-bromoethyl)-4-ethyl-1,4-dihydro-5H-tetrazol-5-one | 22% | BrCCN1N=NN(C1=O)CC | C5H9BrN4O
